US07547710B2
A mixture of tert-butyl [6-(hydroxymethyl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate (0.46 g, 1.1 mmol), manganese dioxide (chemically treated product, 1.4 g, 16 mmol) and tetrahydrofuran (20 ml) was stirred at room temperature for 12 hrs. The reaction mixture was filtered, and the filtrate was partitioned between ethyl acetate and 1N aqueous sodium hydroxide solution. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give tert-butyl [6-formyl-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate (0.28 g, yield 62%) as a white powder.

reactant | tert-butyl [6-(hydroxymethyl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate | 1.1 mmol, 0.46 g | OCC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C27H34N2O3
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | tert-butyl [6-formyl-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate | 0.28 g, yield 62% | C(=O)C=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C27H32N2O3
